US09284286B2
Sodium hydroxide (0.29 g, 7.27 mmol) is added to a solution of 4-(2-methoxycarbonyl-ethylsulfanyl)-thiazole-5-carboxylic acid methyl ester (2.0 g, 7.27 mmol) in MeOH (30 ml). The mixture is refluxed at 70-80° C. for 1 h and then concentrated in vacuo. The residue is dissolved in EtOAc/water (1:1) (80 ml) and the pH is adjusted to 2 with 2M hydrochloric acid. The organic layer is dried over sodium sulfate and concentrated yielding 4-mercapto-thiazole-5-carboxylic acid methyl ester (0.82 g, 4.67 mmol, 46%).

reactant | Sodium hydroxide | 7.27 mmol, 0.29 g | [OH-].[Na+]
reactant | 4-(2-methoxycarbonyl-ethylsulfanyl)-thiazole-5-carboxylic acid methyl ester | 7.27 mmol, 2.0 g | COC(=O)C1=C(N=CS1)SCCC(=O)OC | C9H11NO4S2
solvent | MeOH | 30 ml | CO | CH4O
product | 4-mercapto-thiazole-5-carboxylic acid methyl ester | 4.67 mmol, 0.82 g, 46% | COC(=O)C1=C(N=CS1)S | C5H5NO2S2
